US08114878B2
1.2.1 (R)-2-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-3-methyl-butyramide
800 mg 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine and 800 mg D-valinamide hydrochloride are placed in 8 ml dioxane, then 2.7 ml diisopropylethylamine are added. The reaction mixture is heated to 120° C. in the microwave for 2 hours. The residue is mixed with water. The precipitate formed is suction filtered and dried. 820 mg of the product are obtained as a powder. Analytical HPLC (method B): RT=2.64 min.

reactant | 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine | 800 mg | ClC=1N=C(C2=C(N1)CCS2)Cl | C6H4Cl2N2S
reactant | D-valinamide hydrochloride | 800 mg | Cl.N[C@H](C(C)C)C(=O)N
reactant | diisopropylethylamine | 2.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (R)-2-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-3-methyl-butyramide | 820 mg | ClC=1N=C(C2=C(N1)CCS2)N[C@@H](C(=O)N)C(C)C | C11H15ClN4OS
